US08492582B2
3-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-pyridine (0.25 g), tripotassium phosphate (0.47 g), palladium(II) acetate (4.5 mg), and 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (4.1 mg) were added to a toluene (5.3 mL) solution of the obtained benzyl 2-(benzyloxy)-3-chlorobenzoate (0.35 g), followed by heating to reflux under a nitrogen atmosphere for 1 hour and 40 minutes. The reaction mixture was cooled to room temperature, and then 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (0.12 g), tripotassium phosphate (0.23 g), palladium(II) acetate (4.5 mg), and 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (4.1 mg) were added thereto, followed by heating to reflux under a nitrogen atmosphere for 3 hours. After cooling the reaction mixture to room temperature, a 10% aqueous solution of citric acid and ethyl acetate were added thereto, and the insoluble substance was removed by filtration. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Fuji Silysia Chemical Ltd., PSQ100B (spherical), eluent: 90-65% hexane/ethyl acetate] to obtain 0.35 g of benzyl 2-(benzyloxy)-3-(pyridin-3-yl)benzoate.

reactant | 3-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-pyridine | 0.25 g | CC1(OB(OC1(C)C)C=1C=NC=CC1)C | C11H16BNO2
reactant | tripotassium phosphate | 0.47 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | benzyl 2-(benzyloxy)-3-chlorobenzoate | 0.35 g | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=CC=C1Cl | C21H17ClO3
reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.12 g | CC1(OB(OC1(C)C)C=1C=NC=CC1)C | C11H16BNO2
reactant | tripotassium phosphate | 0.23 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | palladium(II) acetate | 4.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium(II) acetate | 4.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 4.1 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
catalyst | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 4.1 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5.3 mL | C1(=CC=CC=C1)C | C7H8
product | benzyl 2-(benzyloxy)-3-(pyridin-3-yl)benzoate | 0.35 g | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=CC=C1C=1C=NC=CC1 | C26H21NO3
